US05482941
8-Carbamoyl-2-(2-ethoxyphenyl)quinazolin-4(3H)-one
A stirred mixture of 3-carbamoyl-2-(2-ethoxybenzamido)benzamide (Preparation 18; 1 g, 0,003 mol) sodium hydroxide (0.61 g, 0.015 mol), water (30 ml) and ethanol (7 ml) was heated under reflux for 1 hour. The cool solution was washed with dichloromethane (3×30 ml), acidified to pH 1 with 2N hydrochloric acid and the resulting precipitate collected by filtration. The solid was suspended in saturated aqueous sodium carbonate solution (60 ml) and this suspension extracted with dichloromethane-methanol (98: 2, 3×100 ml). The extracts were combined, dried (Na2SO4) and evaporated under vacuum, then the residue triturated with diethyl ether (50 ml) to give the title compound as a white solid (0.72 g, 78%), m.p. 252°-254° C. Found: C,66.28; H,4.97; N,13.65. C17H15H3O3 requires C,66.01; H,4.89; N,13.59%.

reactant | 3-carbamoyl-2-(2-ethoxybenzamido)benzamide | 0,003 mol, 1 g | C(N)(=O)C=1C(=C(C(=O)N)C=CC1)NC(C1=C(C=CC=C1)OCC)=O | C17H17N3O4
reactant | sodium hydroxide | 0.015 mol, 0.61 g | [OH-].[Na+]
reactant | water | 30 ml | O | H2O
solvent | ethanol | 7 ml | C(C)O | C2H6O
product | 8-Carbamoyl-2-(2-ethoxyphenyl)quinazolin-4(3H)-one | 0.72 g, 78% | C(N)(=O)C=1C=CC=C2C(NC(=NC12)C1=C(C=CC=C1)OCC)=O | C17H15N3O3
